US05886014
N-t-Butoxycarbonyl-N-methyl-4-acetoxy-2,3,5-trimethylaniline
5.64 ml of dehydrated triethylamine and 2.9 ml of acetyl chloride were added at room temperature to a solution of 7.2 g of N-t-butoxycarbonyl-N-methyl-4-hydroxy-2,3,5-trimethylaniline (prepared as described in Preparation 15) in 100 ml of dehydrated tetrahydrofuran, and the resulting mixture was stirred for 1 hour, after which it was allowed to stand overnight. The reaction mixture was then diluted with water and the aqueous mixture was extracted with ethyl acetate. The extract was washed with water and with a saturated aqueous solution of sodium chloride, in that order, after which it was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, after which the residue was triturated with ice-cooled hexane to cause crystallization. The crystals were collected by filtration and washed with ice-cooled hexane to give 6.25 g of the title compound, melting at 103°-104° C.

reactant | triethylamine | 5.64 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 2.9 ml | C(C)(=O)Cl | C2H3ClO
reactant | N-t-butoxycarbonyl-N-methyl-4-hydroxy-2,3,5-trimethylaniline | 7.2 g | C(C)(C)(C)OC(=O)N(C1=C(C(=C(C(=C1)C)O)C)C)C | C15H23NO3
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-t-Butoxycarbonyl-N-methyl-4-acetoxy-2,3,5-trimethylaniline | 6.25 g | C(C)(C)(C)OC(=O)N(C1=C(C(=C(C(=C1)C)OC(C)=O)C)C)C | C17H25NO4
